US07084164B2
3-[3-(3-Methoxypropyl)-5-(6-phenylpyridin-3-yl)-4H-1,2,4-triazol-4-yl]-2-methylbenzamide
5-[5-(3-Methoxypropyl)-1,3,4-oxadiazol-2-yl]-2-phenylpyridine (1.0 g) prepared in the Reference Example 7 was dissolved in 1,3-dimethyl-2-imidazolidinone (10 ml), followed by addition of 3-amino-2-methylbenzamide (1.53 g) prepared in the Reference Example 6 and D-10-camphorsulfonic acid (290 mg), and stirred at 200° C. for 16 hours. After the reaction solution was cooled to ambient temperature, chloroform was added to the solution, which was then washed with saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: chloroform/methanol=10/1), to afford the entitled compound (812 mg, 56%). The physico-chemical values are as follows.

reactant | 5-[5-(3-Methoxypropyl)-1,3,4-oxadiazol-2-yl]-2-phenylpyridine | 1.0 g | COCCCC1=NN=C(O1)C=1C=CC(=NC1)C1=CC=CC=C1 | C17H17N3O2
reactant | 3-amino-2-methylbenzamide | 1.53 g | NC=1C(=C(C(=O)N)C=CC1)C | C8H10N2O
reactant | D-10-camphorsulfonic acid | 290 mg | CC1(C2CCC1(C(=O)C2)CS(=O)(=O)O)C | C10H16O4S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | 1,3-dimethyl-2-imidazolidinone | 10 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | 3-[3-(3-Methoxypropyl)-5-(6-phenylpyridin-3-yl)-4H-1,2,4-triazol-4-yl]-2-methylbenzamide | 812 mg, 56% | COCCCC1=NN=C(N1C=1C(=C(C(=O)N)C=CC1)C)C=1C=NC(=CC1)C1=CC=CC=C1 | C25H25N5O2
